US06555577B1
(E)-3-(4-Bromo-phenyl)-acrylic acid ethyl ester (450 mg, 2.0 mmol) was reacted with 5-isopropyl-2-methoxy-benzene boronic acid (776 mg, 4.0 mmol) by a procedure described in example 52a, to give (E)-3-(5′-Isopropyl-2′-methoxy-biphenyl-4-yl)-acrylic acid ethyl ester.

reactant | (E)-3-(4-Bromo-phenyl)-acrylic acid ethyl ester | 2.0 mmol, 450 mg | C(C)OC(\C=C\C1=CC=C(C=C1)Br)=O | C11H11BrO2
reactant | 5-isopropyl-2-methoxy-benzene boronic acid | 4.0 mmol, 776 mg | C(C)(C)C=1C=CC(=C(C1)B(O)O)OC | C10H15BO3
product | (E)-3-(5′-Isopropyl-2′-methoxy-biphenyl-4-yl)-acrylic acid ethyl ester | C(C)OC(\C=C\C1=CC=C(C=C1)C1=C(C=CC(=C1)C(C)C)OC)=O | C21H24O3
